US07064124B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoate
4-Pyridinemethanol (0.232 g, 2.13 mmol), tri-n-butylphosphine (0.430 g, 2.13 mmol) and N,N,N′,N′-tetramethylazodicarboxamide (0.366 g, 2.13 mmol) were added to a benzene solution of methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate (0.500 g, 1.33 mmol) and the solution was stirred at room temperature for 12 hours. The reaction solution was poured into an aqueous 2N sodium hydroxide solution (15 ml) and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=2:3) to obtain the titled compound (0.610 g, 1.31 mmol, 98%).

reactant | 4-Pyridinemethanol | 2.13 mmol, 0.232 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | tri-n-butylphosphine | 2.13 mmol, 0.430 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethylazodicarboxamide | 2.13 mmol, 0.366 g | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 1.33 mmol, 0.500 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)O)C(=C(C1OC)OC)OC)C | C20H24O7
reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoate | 1.31 mmol, 0.610 g, 98% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OCC2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C26H29NO7
